US08541411B2
b) 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid
A mixture of methyl 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylate (170 mg, 0.41 mmol) and LiOH (172 mg, 4.1 mmol) in THF (15 mL) and water (10 mL), was stirred at 50° C. for 1 h. Then the pH of the reaction mixture was neutralized with 1N aq. HCl. Then the mixture was stirred at rt for 1 h, filtered to give the desired product (150 mg, 91%), as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 2.51 (s, 3H), 3.07 (t, 4H, J=4.8 Hz), 3.70 (t, 4H, J=4.8 Hz), 6.09 (s, 2H), 6.38 (d, 1H, J=7.8 Hz), 7.32-7.46 (m. 3H), 7.60-7.73 (m, 2H), 7.87 (d, 1H, J=7.8 Hz), 8.02 (d, 1H, J=8.4 Hz), 8.23 (d, 1H, J=8.1 Hz); LC-MS: m/e=402 [M+1]+

reactant | methyl 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylate | 0.41 mmol, 170 mg | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)OC)N2CCOCC2 | C25H25N3O3
reactant | LiOH | 4.1 mmol, 172 mg | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 2-methyl-6-(4-morpholinyl)-1-(1-naphthalenylmethyl)-1H-benzimidazole-4-carboxylic acid | 150 mg, 91% | CC1=NC2=C(N1CC1=CC=CC3=CC=CC=C13)C=C(C=C2C(=O)O)N2CCOCC2 | C24H23N3O3
